US07320979B2
18.1 N-(6-Chloropyrimidin-4-yl)-4-isopropylbenzenesulfonamide
996 mg (5.0 mmol) of isopropylbenzenesulfonamide were dissolved in 20 ml of dimethyl sulfoxide, after which 288 mg (6.0 mmol) of 50% sodium hydride were added and the mixture was stirred at room temperature for 30 minutes. 819 mg (5.5 mmol) of 4,6-dichloropyrimidine were then added and the reaction mixture was stirred overnight at room temperature. Subsequently, the mixture was heated at 90° C. for 3 hours and, after that, stirred at 120° C., in a microwave oven, for 30 minutes. After the reaction mixture had cooled down to room temperature, it was diluted with 150 ml of water, neutralized with citric acid and extracted three times with diethyl ether. The residue, which was obtained after drying with sodium sulfate and after removing the solvent, was dissolved in 100 ml of diethyl ether and extracted with an aqueous solution of sodium hydrogen carbonate. The aqueous phase was acidified and extracted with diethyl ether. The organic phase was dried, filtered and evaporated down to dryness, with 440 mg (28% of theory) of the title compound being obtained.

reactant | isopropylbenzenesulfonamide | 5.0 mmol, 996 mg | C(C)(C)C1=C(C=CC=C1)S(=O)(=O)N | C9H13NO2S
reactant | sodium hydride | 6.0 mmol, 288 mg | [H-].[Na+]
reactant | 4,6-dichloropyrimidine | 5.5 mmol, 819 mg | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | 150 ml | O | H2O
product | N-(6-Chloropyrimidin-4-yl)-4-isopropylbenzenesulfonamide | ClC1=CC(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C(C)C | C13H14ClN3O2S
